US05356886
A mixture of 2-[di-(t-butoxycarbonyl)]amino-9-hydroxy-6-methoxypurine (0.62 g, 1.6 mmol), triphenylphosphine (0.43 g, 1.6 mmol), and diisopropyl (E)-3-(t-butyldiphenylsilyloxy)methyl-4-hydroxybut-1-enylphosphonate (0.6 g, 1.2 mmol) in anhydrous THF (15 ml) at 0° C. was treated dropwise, slowly, with diethyl azodicarboxylate (0.25 g, 1.6 mmol). After stirring overnight at room temperature, the solvent was removed in vacuo and the residue chromatographed on silica gel, eluting with acetone-hexane (1:2) to give (E)-9-[2-(t-butyldiphenylsilyloxy)methyl-4(diisopropoxyphosphoryl)but-3-enyloxy]-2-[di-(t-butoxycarbonyl)]amino-6-methoxypurine as a gum (0.7 g, 66%); υmax (KBr) 2977, 2932, 2858, 1792, 1757, 1734, 1592, 1472, and 1427 cm-1 ; δH (CDCl3) 1.06 [9H, s, C(CH3)3 ], 1.30 [12H, s, 2×CH(CH3)2 ], 1.43 (18H, s, 2×C(CH3) 3 ], 2.92 (1H, CH), 3.85 (2H, m, CH2), 4.15 (3H, s, OCH3), 4.4-4.75 [4H, CH2, 2×CH (CH3)2 ], 5.91 (1H, ddd, J 1, 17 and 19 Hz, PCH=CH), 6.77 (1H, ddd, J 8, 17 and 25Hz, PCH=H) , 7.3-7.85 (11H, m, 2×C6H5, H-8) (Found: C, 59.77; H, 7.52;N, 7.79%. C43H62N5O10PSi requires C, 59.50; H, 7.20; N, 8.07%).

reactant | 2-[di-(t-butoxycarbonyl)]amino-9-hydroxy-6-methoxypurine | 1.6 mmol, 0.62 g | C(C)(C)(C)OC(=O)N(C1=NC(=C2N=CN(C2=N1)O)OC)C(=O)OC(C)(C)C | C16H23N5O6
reactant | triphenylphosphine | 1.6 mmol, 0.43 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl (E)-3-(t-butyldiphenylsilyloxy)methyl-4-hydroxybut-1-enylphosphonate | 1.2 mmol, 0.6 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC(/C=C/P(OC(C)C)(OC(C)C)=O)CO | C27H41O5PSi
reactant | diethyl azodicarboxylate | 1.6 mmol, 0.25 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (E)-9-[2-(t-butyldiphenylsilyloxy)methyl-4(diisopropoxyphosphoryl)but-3-enyloxy]-2-[di-(t-butoxycarbonyl)]amino-6-methoxypurine | 0.7 g, 66% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC(CON1C2=NC(=NC(=C2N=C1)OC)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)\C=C\P(=O)(OC(C)C)OC(C)C | C43H62N5O10PSi
